************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE5545MiniProject1
* Top Cell Name: DFlip_Flop
* View Name:     schematic
* Netlisted on:  Mar 18 23:43:44 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE5545MiniProject1
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter GND IN OUT VDD
*.PININFO GND:I IN:I VDD:I OUT:O
MMP1 OUT IN VDD VDD PMOS_VTG W=180.0n L=50n m=1
MMN1 OUT IN GND GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: ECE5545MiniProject1
* Cell Name:    TransmissionGate
* View Name:    schematic
************************************************************************

.SUBCKT TransmissionGate GND GateNMOS GatePMOS IN OUT VDD
*.PININFO GND:I GateNMOS:I GatePMOS:I IN:I VDD:I OUT:B
MM0 IN GatePMOS OUT VDD PMOS_VTG W=180.0n L=50n m=1
MMN1 IN GateNMOS OUT GND NMOS_VTG W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: ECE5545MiniProject1
* Cell Name:    DFlip_Flop
* View Name:    schematic
************************************************************************

.SUBCKT DFlip_Flop CLK D GND Q VDD
*.PININFO CLK:I D:I GND:I VDD:I Q:O
XInv2 GND net1 net7 VDD / Inverter
XInv5 GND net019 net10 VDD / Inverter
XInv4 GND net19 net019 VDD / Inverter
XInv0 GND CLK net010 VDD / Inverter
XInv3 GND net7 net2 VDD / Inverter
XInv1 GND D net026 VDD / Inverter
XInv6 GND net019 Q VDD / Inverter
XTG3 GND CLK net010 net7 net19 VDD / TransmissionGate
XTG1 GND net010 CLK net026 net1 VDD / TransmissionGate
XTG2 GND CLK net010 net2 net1 VDD / TransmissionGate
XTG4 GND net010 CLK net10 net19 VDD / TransmissionGate
.ENDS

